US07709476B2
(±)-3-{[(2-Hydroxyethyl)sulfinyl]methyl}-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one
To a solution of 3-{[(2-hydroxyethyl)thio]methyl}-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one (31 mg, 0.087 mmol) in 2 mL of dichloromethane was added at 0° C. meta-chloroperbenzoic acid (16 mg, 0.091 mmol). After 15 minutes, the reaction mixture was partitioned between EtOAc and 2M Na2S2O3 solution, and the organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by preparative reversed phase HPLC to provide the titled product. 1H-NMR (500 MHz, CDCl3) δ 8.43 (d, J=9.0 Hz, 1H), 7.44-7.55 (m, 3H), 7.33 (br d, J=8 Hz, 2H), 7.06 (dd, J=8.8, 2.4 Hz, 1H), 6.33 (d, J=2.4 Hz, 1H), 4.28 (d, J=13.9 Hz, 1H), 3.98 (d, J=13.9 Hz, 1H), 3.96-4.04 (m, 2H), 3.84, (s, 3H), 3.68 (s, 3H), 2.85 (m, 1H), 2.70 (m, 1H), ppm. ESI+ MS: 372.19 [M+H]+.

reactant | 3-{[(2-hydroxyethyl)thio]methyl}-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | 0.087 mmol, 31 mg | OCCSCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C20H21NO3S
reactant | meta-chloroperbenzoic acid | 0.091 mmol, 16 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (±)-3-{[(2-Hydroxyethyl)sulfinyl]methyl}-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | OCCS(=O)CC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C20H21NO4S
